US05716971
To a solution of 4-ethylphenol methoxymethyl ether (4.64 g) in diethyl ether (120 ml) was added dropwise, under argon atmosphere at -78° C., a 1.7M t-butyl lithium pentane solution (18 ml). The mixture was stirred for one hour, to which was then added dropwise 2-cyano-3-trimethylsilyloxypyridine (4.91 g), followed by removing the cooling bath. The reaction mixture was stirred for 3 hours while warming up to room temperature. To the reaction mixture was added methanol (10 ml) to quench the reaction, then the solvent was distilled off. To the residue were added acetone (200 ml), conc. sulfuric acid (4 ml) and water (40 ml), then the mixture was heated for 5 hours under reflux. The reaction mixture was cooled, neutralized with an aqueous solution of sodium hydroxide, and concentrated. The concentrate was subjected to extraction with chloroform, and the extract was dried (anhydrous magnesium sulfate), then the solvent was distilled off. The residue was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 2-(5-ethyl-2-hydroxybenzoyl)-3-hydroxypyridine (4.40 g) (Compound A-17), whose physical propertphysical properties and spectrum data are shown in Table 1 and Table 4.

reactant | 4-ethylphenol methoxymethyl ether | 4.64 g | COCOC1=CC=C(C=C1)CC | C10H14O2
reactant | t-butyl lithium pentane | 1.7M, 18 ml | CCCCC.C(C)(C)(C)[Li]
reactant | 2-cyano-3-trimethylsilyloxypyridine | 4.91 g | C(#N)C1=NC=CC=C1O[Si](C)(C)C | C9H12N2OSi
reactant | diethyl ether | 120 ml | C(C)OCC | C4H10O
product | 2-(5-ethyl-2-hydroxybenzoyl)-3-hydroxypyridine | 4.40 g | C(C)C=1C=CC(=C(C(=O)C2=NC=CC=C2O)C1)O | C14H13NO3
